US07189873B2
A solution of hydroxy-(4-methoxy-phenyl)-acetic acid [1-(4-hydroxy-3-methoxy-phenyl)-meth-(E)-ylidene]-hydrazide (21 g, 63 mmol) in 500 ml of ethanol is hydrogenated under atmospheric pressure with hydrogen and a mixture of 5% of palladium on charcoal (10.5 g) as catalyst. The reaction is stirred for 6 hours at room temperature. Subsequently, the mixture is filtered under argon and the solvent is evaporated to yield hydroxy-(4-methoxy-phenyl)-acetic acid N′-(4-hydroxy-3-methoxy-benzyl)-hydrazide as colourless tarr.

reactant | hydroxy-(4-methoxy-phenyl)-acetic acid [1-(4-hydroxy-3-methoxy-phenyl)-meth-(E)-ylidene]-hydrazide | 63 mmol, 21 g | OC1=C(C=C(C=C1)\C=N\NC(C(C1=CC=C(C=C1)OC)O)=O)OC | C17H18N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 10.5 g | [Pd] | Pd
product | hydroxy-(4-methoxy-phenyl)-acetic acid N′-(4-hydroxy-3-methoxy-benzyl)-hydrazide | OC1=C(C=C(CNNC(C(C2=CC=C(C=C2)OC)O)=O)C=C1)OC | C17H20N2O5
